US07994326B2
Synthesis of tert-butyl 4,6-dimethylpyridin-2-ylcarbamate (I-1)
A solution of 2-amino-4,6-dimethyl-pyridine (3.1 g, 0.025 mol) in melted tert-butanol (50 mL) was treated with di-tert-butyl dicarbonate (6.0 g, 0.0275 mol). The reaction mixture was stirred about 60° C. for 48 h, the solvent was evaporated in vacuo. The residue was purified directly by column chromatography (silica gel, Hexanes:EtOAc=8:2) to yield white solid (I-1, 4.8 g, 85%).

reactant | 2-amino-4,6-dimethyl-pyridine | 0.025 mol, 3.1 g | NC1=NC(=CC(=C1)C)C | C7H10N2
reactant | di-tert-butyl dicarbonate | 0.0275 mol, 6.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tert-butanol | 50 mL | C(C)(C)(C)O | C4H10O
product | tert-butyl 4,6-dimethylpyridin-2-ylcarbamate | CC1=CC(=NC(=C1)C)NC(OC(C)(C)C)=O | C12H18N2O2
